* Testcase 000616 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VVDD VDD 0 1.8
VVCONTR VCONTR 0 DC 0.9 AC 0.5

* Circuit
I1 N1 GND 1u
XM1 N5 N2 N6 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM2 N2 N5 N6 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM3 N1 N1 VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM4 N7 N1 VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
R1 N6 GND 10k
C1 VCONTR N5 1p
C2 VCOARSE1 N5 1p
C3 VCOARSE2 N5 1p
C4 VCOARSE1 N2 1p
C5 N2 VCONTR 1p
C6 N2 VCOARSE2 1p
L1 N2 N7 10n
R2 N5 N7 10k

.control
set filetype=ascii

op
let vdd_current = abs(i(VVDD))
let power_dc = vdd_current * 1.8
print power_dc

ac dec 100 1k 100g
let vout_mag = vm(N6)
let gain_db = db(vout_mag)

meas ac max_gain_db MAX gain_db
meas ac bw_3db WHEN gain_db='max_gain_db-3' CROSS=1

print max_gain_db bw_3db

quit
.endc

.end
